Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm weary, I haven't slept in three days."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old ___ male with a 
history
of paranoid schizophrenia who self-presented to the ED with
complaints that he has been experiencing "racing thoughts" and
"not being able to sleep" for several days. He reports that he
has felt increasingly paranoid with regard to people trying to
___ him in the past week. He states that he refuses "to go
home, because I don't feel safe in the community." He repeatedly
states, "I don't feel safe, I just don't feel safe in the
community." He endorses not being able to sleep for any length 
of
time for the past three nights and as a result has been 
wandering
the streets of the city (he states that he "walked all the way
from ___ to here last night") as a result of his fear of
returning to his apartment. He endorses "racing thoughts" and
states "I can't organize it all" but does not elaborate with
further details and abruptly changes the topic of discussion. He
reports that he had been hospitalized psychiatrically for
approximately 9 days in ___ at ___ for "the exact
same thing", and that he had been treated with medication, the
names of which he is not able to recall. He reports that he was
discharged from ___ "with no follow up treatment" 
and
was given prescriptions for medications which he never filled. 
He
states that "those medications did not seem to work well with
me." He states that he has not seen "any doctors" since being
discharged from ___ and that he has not taken "any
medications" since his last hospitalization. He states that "I
think I need to be in the hospital for at least 2 weeks before I
can return to the community." He currently denies experiencing
auditory or visual hallucinations. He denies suicidal ideation,
intent, or plan. He denies homicidal ideation, intent, or plan. 

On psychiatric review of systems, he denies symptoms consistent
with depression including anhedonia, hopelessness, guilt,
fatigue, difficulty concentrating, changes in appetite, and 
sleep
disturbances. He denies symptoms consistent with anxiety
including panic attacks or agoraphobia.
 
Past Medical History:
-Reported Hypertension
-h/o Rhabdomyolysis 
-Reported Tardive dyskinesia

PAST PSYCHIATRIC HISTORY:
Previous diagnoses: Schizophrenia, paranoid type
Past psychiatric hospitalizations: Reports recent 
hospitalization at ___ (___), ___ ___ - 
___- for acute exacerbation of psychotic
illness, was started on Risperdal Consta at that time

Past medication trials, response, compliance, recent changes:
Patient is unable to recall previous treatment, but per OMR, he
has been treated with Risperdal, Haldol decanoate
History of suicide attempts, self-injurious behavior, or
assaultive behavior: Denies
Current outpatient therapist: None currently
Current outpatient prescriber: None currently

SUBSTANCE ABUSE HISTORY:
Alcohol: Denies recent or current use
Tobacco: Denies recent or current use
Illicit or other drug use: Denies recent or current use; denies
IVDU
 
Social History:
___
Family History:
History of suicidality or suicide attempts: Denies
History of diagnosed psychiatric/substance abuse disorders: 
Denies 
History of inpatient psychiatric hospitalizations: Denies

 
Physical Exam:
Appearance: Thin, poor grooming and hygiene, malodorous, dressed
in hospital gown, lying in bed in no apparent distress
Behavior: Cooperative, some psychomotor agitation, fidgeting
throughout interview, poor eye contact (e.g. keeps his eyes
closed at all times)
Speech: Mostly fluent, stutters at times, normal
tone/rate/prosody; without paraphasic errors; "I can't organize
it all, my thoughts, I can't organize it all"
Mood: "Weary, sir"
Affect: Restricted range
Thought Process: Circumstantial; no overt evidence of thought
insertion, broadcasting, or withdrawal
Associations: Intact
Hallucinations: No evidence of hallucinations in any modality
Delusions: Prominent paranoid ideation regarding other
individuals out to harm him
Suicidal Ideation: Denies suicidal ideation, intent, or plan
Homicidal Ideation: Denies homicidal ideation, intent, or plan
Insight: Limited
Judgment: Impaired

Cognition:
Attention/Orientation: Awake, alert and oriented to person,
place, and time
Concentration: Intact; correctly states the months of the year
backward
Calculations: Intact; $2.25 in quarters = "9"
Abstraction: Fair abstraction
Proverbs: Provided accurate interpretations of proverbs 
presented
Memory: Memory is grossly intact; Normal remote, recent past, 
and
immediate recall.
Language: Normal language
Fund of knowledge: Average
 
Pertinent Results:
___ 04:30PM BLOOD WBC-7.9 RBC-4.71 Hgb-14.1 Hct-42.5 MCV-90 
MCH-29.9 MCHC-33.1 RDW-13.6 Plt ___
___ 04:30PM BLOOD Neuts-61.7 ___ Monos-6.2 Eos-1.6 
Baso-1.3

___ 04:30PM BLOOD Glucose-89 UreaN-18 Creat-1.3* Na-138 
K-4.7 Cl-103 HCO3-25 AnGap-15
___ 04:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Summary: Mr ___ is a ___ with a history schizophrenia admitted 
___ for worsening
paranoia in the context of medication nonadherence and lack of 
outpatient psychiatric treatment.

#Schizophrenia: On admission, Mr ___ presented with persecutory 
and paranoid delusions about becoming the target of crime in his 
area.  He had not filled his prescriptions following his prior 
hospitalization in ___, raising concern about medication 
nonadherence.  Further complicating this, he repeatedly 
expresses a distrust of doctors ___ to "lean towards 
[his] faith"), which has led him to avoid engaging with 
outpatient providers at any time since onset of his illness.  As 
such, he exclusively relies upon urgent care and emergency 
services when paranoia worsens.  

Risperidone was initiated and dose was titrated to 3mg BID 
without adverse effects.  His paranoia was observed to decrease 
considerably, and accordingly, he expressed feeling ready for 
discharge. He was also observed to have increased range of 
affect, decreased isolation, and increased engagement with the 
treatment team.

Despite repeated attempts to appeal to his stated personal needs 
and preferences, Mr. ___ was very resistant to accept 
outpatient follow up (suggestions included referral to a PACT 
team, Center Club, and outpatient psychiatry/therapy/case 
management). He expressed a concern about losing his 
independence with such services and preference to live as a 
"hermit." Similarly, he declined decanoate formulations such as 
Risperdal Consta or Invega at this time, but he agreed to 
consider them further if readmitted to the hospital in the near 
future due to decompensation in the context of medication 
nonadherence. At the time of discharge, he agreed to consider 
future referral to ___ and requested that his follow up 
be scheduled with Dr. ___.  

#Safety:  Patient denied SI/HI and remained in good behavioral 
control throughout admission.  He was monitored on q15 minute 
checks without incident.

#Medical: He denied vital signs while inpatient, so reported 
history of hypertension could not be confirmed or monitored. No 
medical issues arose during his care. He declined referral to 
primary care.

#Legal: ___
Medications on Admission:
From ___ discharge summary, compliance unclear:

1. risperidone 1 mg Tablet Sig: Three (3) Tablet PO BID (2 times 

a day). Disp:*180 Tablet(s)* Refills:*2*
2. risperidone microspheres 25 mg/2 mL Syringe Sig: One (1) 
Syringe Intramuscular Q2W (TH).
 
Discharge Medications:
1. risperidone 1 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day).
Disp:*180 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Schizophrenia, paranoid type
Axis II: none
Axis III: Hypertension

 
Discharge Condition:
VS: Refused
Appearance: Average build; poor grooming/hygiene; full facial 
expressions; appropriate eye contact.
Attitude: Cooperative, pleasant.
Behavior: No abnormal movements; no PMA/PMR.
Speech: Nl rate/vol/prosody.
Affect/Mood: Bright, full-range; 'as well as can be
expected'
Thought process: Goal-oriented and linear, but vague.
Thought content: Denies SI/HI or AVH.  Some religious 
preoccupation. Improved, but present paranoid ideation.
Insight/Judgment: Poor/Fair
Cognitive: A+O x 3

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___